US07230011B2
1-Benzyl-3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole
By a method similar to Preparation 32, using 5-(t-butyldimethylsilanyloxy)-3-(1-methylpiperidin-4-yl)-1H-indol (350 mg, 1.02 mmol) in tetrahydrofuran (20 mL), potassium hydride (116 mg of a 35% dispersion in oil, 1.02 mmol) and benzyl bromide (121 μL, 1.02 mmol) and after stirring at room temperature overnight, the reaction mixture was directly treated with tetrabutyl ammonium fluoride (1.02 mL of a 1M solution in tetrahydrofuran, 1.02 mmol) and stirred at room temperature for three days. The solvent was then removed in vacuo, and the resulting residue was diluted with methanol (15 mL) and directly applied to a 5 g SCX column. After thoroughly washing with methanol, the column was eluted with a 8:2 mixture of dichloromethane and 2 N ammonia in methanol. The eluent was concentrated in vacuo, and the residue was further purified on silica gel. Elution with a 0% to 2% gradient of methanol in dichloromethane provided 323 mg (99%) of the title compound as an off-white gum: 1H NMR (400 MHz, CDCl3): 7.33-7.20 (m, 4H), 7.12-7.05 (m, 2H), 7.04 (d, 1H, J=8.4 Hz), 6.82 (s, 1H), 6.70 (dd, 1H, J=8.6, 2.6 Hz), 5.17 (s, 2H), 3.01 (br d, 2H, J=11.2 Hz), 2.71 (tt, 1H, J=11.8, 4.0 Hz), 2.38 (s, 3H), 2.22-1.98 (m, 4H), 1.98-1.88 (m, 2H): MS (ES+): m/e 321.0 (M+1).

reactant | 5-(t-butyldimethylsilanyloxy)-3-(1-methylpiperidin-4-yl)-1H-indol | 1.02 mmol, 350 mg | [Si](C)(C)(C(C)(C)C)OC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C20H32N2OSi
reactant | benzyl bromide | 1.02 mmol, 121 μL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | tetrabutyl ammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | potassium hydride | [H-].[K+]
product | 1-Benzyl-3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole | 323 mg, 99% | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)O)C1CCN(CC1)C | C21H24N2O
